US07754737B2
To a solution of 2-iodophenol (11.82 g, 52.7 mmol) and 1-fluoro-2-nitrobenzene (5.0 g, 35.1 mmol) in DMSO (50 mL was added K2CO3 (14.5 g, 105.3 mmol), followed by CsF (8.0 g, 52.7 mmol). The resulting suspension was stirred at 50° C. until no starting material remained (˜5 h), cooled to rt and partitioned between water (50 mL) and CH2Cl2 (50 mL). The water layer was separated and extracted with CH2Cl2 (2×10 mL). The combined organic layers were washed with 1 aq N NaOH (10 mL) and brine, and dried over Na2SO4. Solvent was removed under vacuum to give 1-(2-iodophenoxy)-2-nitrobenzene (11.2 g, 93%) as an oil, which was used for next step without purification.

reactant | 2-iodophenol | 52.7 mmol, 11.82 g | IC1=C(C=CC=C1)O | C6H5IO
reactant | 1-fluoro-2-nitrobenzene | 35.1 mmol, 5.0 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | K2CO3 | 105.3 mmol, 14.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CsF | 52.7 mmol, 8.0 g | [F-].[Cs+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-(2-iodophenoxy)-2-nitrobenzene | 11.2 g, 93% | IC1=C(OC2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C12H8INO3
